US07420066B2
Step 2: Preparation of (2,4-dichloro-phenyl)-(6-iodo-benzofuran-2-yl)-methanone
To a solution of 4-iodo-2-hydroxy-benzaldehyde (5.4 g, 22 mmol) and 2-chloro-1-(2,4dichlorophenyl)ethanone (11.2 g, 50.0 mmol) in anhydrous N,N-dimethylformamide (100 mL) was added K2CO3 (12.0 g, 86.9 mmol). The dark brown reaction mixture was stirred at 90 C for 48 h, then poured onto water (150 mL) and extracted with ethyl acetate. The solvent was removed under reduced pressure and the residue was purified by column chromatography, eluting with 50% hexanes in dichloromethane. The desired product was obtained as an orange solid (2.06 g, 23%). 1H-NMR (CDCl3) δ 7.98 (s, 1H), 7.70 (dd, J=8.3, 1.3 Hz, 1H), 7.54-7.21 (m, 5H).

reactant | 4-iodo-2-hydroxy-benzaldehyde | 22 mmol, 5.4 g | IC1=CC(=C(C=O)C=C1)O | C7H5IO2
reactant | 2-chloro-1-(2,4dichlorophenyl)ethanone | 50.0 mmol, 11.2 g | ClCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl3O
reactant | K2CO3 | 86.9 mmol, 12.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | (2,4-dichloro-phenyl)-(6-iodo-benzofuran-2-yl)-methanone | ClC1=C(C=CC(=C1)Cl)C(=O)C=1OC2=C(C1)C=CC(=C2)I | C15H7Cl2IO2
